US04948898
550 mg of rac-cis-3-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-(t-butoxycarbonyl)-1-methylethoxy]imino]acetamido]-4-methoxycarbonyl-2-oxo-1-azetidinesulphonic acid are added at room temperature to 5.5 ml of trifluoroacetic acid. After 45 minutes, the mixture is evaporated and the residue is purified by chromatography on reverse-phase silica gel using water/methanol (4:1). There are obtained 27 mg of pure rac-cis-3-[(Z)-2-(2-amino-4-thiazolyl)-2-[(1-carboxy-1-methylethoxy)imino]acetamido]-4-methoxycarbonyl-2-oxo-1-azetidinesulphonic acid as an amorphous lyophilizate.

reactant | rac-cis-3-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-(t-butoxycarbonyl)-1-methylethoxy]imino]acetamido]-4-methoxycarbonyl-2-oxo-1-azetidinesulphonic acid | 550 mg | NC=1SC=C(N1)/C(/C(=O)N[C@@H]1C(N([C@@H]1C(=O)OC)S(=O)(=O)O)=O)=N/OC(C)(C)C(=O)OC(C)(C)C | C18H25N5O10S2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | rac-cis-3-[(Z)-2-(2-amino-4-thiazolyl)-2-[(1-carboxy-1-methylethoxy)imino]acetamido]-4-methoxycarbonyl-2-oxo-1-azetidinesulphonic acid | 27 mg | NC=1SC=C(N1)/C(/C(=O)N[C@@H]1C(N([C@@H]1C(=O)OC)S(=O)(=O)O)=O)=N/OC(C)(C)C(=O)O | C14H17N5O10S2
